US05663200
38d) 5(S)-(Boc-Amino)-4(S)-(tert-butyldimethylsilyloxy)-6-phenyl-2(R)-[(p-benzyloxylphenyl)methyl]hexanoic acid
1.4 g (2.69 mmol) of 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-[(p-benzyloxyphenyl)methyl]-hexanoic acid in 2.9 ml of DMF are stirred, at RT for 18 h, together with 1.87 g (12.4 mmol) of tert-butyldimethylchlorosilane and 1.5 g (22 mmol) of imidazole. The reaction mixture is then poured onto ice water, and this mixture is extracted with 3 portions of ethyl acetate; the combined organic phases are washed with 10% citric acid solution, water and saline, dried with sodium sulfate and evaporated. An oil is obtained. This is followed by hydrolysis of the silyl ester function of the oil, at RT, using 2.2 g of potassium carbonate in 63 ml of methanol/water/THF, 3:1:1, and partial evaporation at RT. The aqueous residue is poured onto 10% citric acid solution and ice, and this mixture is extracted 3 times with ethyl acetate; the organic phases are washed twice with water and saline, dried with sodium sulfate and evaporated. Column chromatography (SiO2, D) of the crude product yields the title compound: TLC Rf (D)=0,17; tRet (I)=33,7 min; FAB-NS (M+H)+ =634.

reactant | 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-[(p-benzyloxyphenyl)methyl]-hexanoic acid | 2.69 mmol, 1.4 g | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=C(C=C1)OCC1=CC=CC=C1)O)CC1=CC=CC=C1 | C31H37NO6
reactant | tert-butyldimethylchlorosilane | 12.4 mmol, 1.87 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | 22 mmol, 1.5 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 2.9 ml | CN(C)C=O | C3H7NO
product | 5(S)-(Boc-Amino)-4(S)-(tert-butyldimethylsilyloxy)-6-phenyl-2(R)-[(p-benzyloxylphenyl)methyl]hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=C(C=C1)OCC1=CC=CC=C1)O[Si](C)(C)C(C)(C)C)CC1=CC=CC=C1 | C37H51NO6Si
